US04855489
(±)-3-Dimethylamino-1-octadecyloxy-2-propyl acetate hydrochloride.
1 l) (±)-3-dimethylamino-1-(2-hexadecyloxy)-2-propyl acetate hydrochloride; m.p. 78°-89° C. from n-pentane; yield 83.6%; and

reactant | (±)-3-dimethylamino-1-(2-hexadecyloxy)-2-propyl acetate hydrochloride | Cl.C(C)(=O)OC(COC(C)CCCCCCCCCCCCCC)CN(C)C
reactant | n-pentane | CCCCC | C5H12
product | (±)-3-Dimethylamino-1-octadecyloxy-2-propyl acetate hydrochloride | Cl.C(C)(=O)OC(COCCCCCCCCCCCCCCCCCC)CN(C)C | InChI=1S/C25H51NO3.ClH/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-28-23-25(22-26(3)4)29-24(2)27;/h25H,5-23H2,1-4H3;1H
